data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
414,452,[CH3:13][c:14]1[nH+:15][c-:16]([CH3:17])[c:18](=[O:19])[o:20]1.[CH3:1][C:2]1([F:3])[C:4]#[C:5][C:6]([F:7])([F:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2]1([F:3])[C:4]2=[C:5]([C:6]([F:7])([F:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:14]1([CH3:13])[NH:15][C:16]2([CH3:17])[C:18](=[O:19])[O:20]1,water,298.15,12.396990143968502,-22.88165041597795
2656,2947,[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([Br:9])([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][O:21][C:22](=[O:23])[C-:24]([C:25]([CH3:26])=[O:27])[N+:28]([CH3:29])=[C:30]([CH3:31])[C:32]#[N:33]>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([Br:9])([c:10]3[cH:11][cH:12][cH:13][cH:14][cH:15]3)[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:30]([CH3:31])([C:32]#[N:33])[N:28]([CH3:29])[C:24]2([C:22]([O:21][CH3:20])=[O:23])[C:25]([CH3:26])=[O:27],water,298.15,21.2621926698168,-32.34764346888226
4558,5201,[CH3:6][O:7][C:8](=[O:9])[C:10]([C:11]#[N:12])=[N+:13]([CH3:14])[C-:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:10]([C:8]([O:7][CH3:6])=[O:9])([C:11]#[N:12])[N:13]([CH3:14])[C:15]1([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,42.20337631175006,36.41078852349357
3211,3625,[CH3:10][O:11][C:12](=[O:13])[N-:14][N+:15]#[N:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:14]([C:12]([O:11][CH3:10])=[O:13])[N:15]=[N:16]1,water,298.15,32.33359638832035,-4.190092540863631
3510,4002,[CH3:9][NH:10][C:11](=[O:12])[N-:13][N+:14]([CH3:15])=[C:16]([CH3:17])[CH3:18].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:13]([C:11]([NH:10][CH3:9])=[O:12])[N:14]([CH3:15])[C:16]1([CH3:17])[CH3:18],water,298.15,29.9827871685261,-12.148941981376517
3150,3552,[CH2:1]=[CH2:2].[CH3:3][N-:4][N+:5]([CH3:6])=[C:7]([C:8](=[O:9])[O:10][CH3:11])[C:12](=[O:13])[O:14][CH3:15]>>[CH2:1]1[CH2:2][N:4]([CH3:3])[N:5]([CH3:6])[C:7]1([C:8](=[O:9])[O:10][CH3:11])[C:12](=[O:13])[O:14][CH3:15],water,298.15,20.61743106506113,-20.42427861096104
4503,5136,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12]([C:13]#[N:14])=[N+:15]([CH3:16])[C-:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:12]([CH3:11])([C:13]#[N:14])[N:15]([CH3:16])[C:17]2([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,23.83642173314485,-24.77652681571021
4299,4918,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[c-:15]1[c:16](=[O:17])[o:18][c:19]([C:20]#[N:21])[n+:22]1[CH3:23]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:19]1([C:20]#[N:21])[O:18][C:16](=[O:17])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[N:22]1[CH3:23],water,298.15,25.710736708864307,13.193515569251478
208,226,[CH3:12][C:13]#[N+:14][N-:15][C:16]#[N:17].[CH3:1][O:2][C:3]1([Cl:4])[C:5]#[C:6][CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]1>>[CH3:1][O:2][C:3]1([Cl:4])[c:5]2[c:6]([c:13]([CH3:12])[n:14][n:15]2[C:16]#[N:17])[CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]1,water,298.15,17.6360646151178,-73.1276059017978
55,66,[CH3:1][O:2][C:3]#[C:4][C:5]#[N:6].[N:7]#[C:8][CH-:9][N+:10]#[C:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[C:11]([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)=[N:10][CH:9]1[C:8]#[N:7],water,298.15,13.02534968232846,-72.18826527099775
1416,1558,[CH3:11][NH:12][C:13](=[O:14])[CH:15]=[NH+:16][CH-:17][C:18]#[N:19].[CH3:1][C:2](=[O:3])/[C:4]([Br:5])=[C:6](\[Br:7])[C:8]([CH3:9])=[O:10]>>[CH3:1][C:2](=[O:3])[C@@:4]1([Br:5])[C@:6]([Br:7])([C:8]([CH3:9])=[O:10])[CH:17]([C:18]#[N:19])[NH:16][CH:15]1[C:13]([NH:12][CH3:11])=[O:14],water,298.15,14.687552595357433,-20.66558876364976
528,576,[CH3:13][O:14][C:15](=[O:16])[c-:17]1[o+:18][n:19][o:20][c:21]1=[O:22].[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[N:19]2[O:18][C:17]1([C:15]([O:14][CH3:13])=[O:16])[C:21](=[O:22])[O:20]2,water,298.15,22.860607783324,-22.72391787178117
5218,5921,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15]([CH3:16])=[O:17])[N+:18]([CH3:19])=[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15]([CH3:16])=[O:17])[N:18]([CH3:19])[C:20]1([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,58.580114084612205,9.9373934107856
